US07018988B2
(2S,4EZ)-4-(methoxyimino)-1-(phenoxyacetyl)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and 6-quinolinamine the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=419.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-4-(methoxyimino)-1-(phenoxyacetyl)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | CON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NC=1C=C2C=CC=NC2=CC1 | C23H22N4O4
